US09315518B2
5-[2-(Aminomethyl)-3-methylcyclopropyl]-1-(2,2-dimethylpropyl)-3-methyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (35-2)
1-(2,2-Dimethylpropyl)-5-[2-(hydroxymethyl)-3-methylcyclopropyl]-3-methyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (35-1, 61.6 mg, 0.20 mmol, 1.0 equiv) was added to anhydrous DCM (2.0 mL) and cooled to −10° C. Triethylamine (54.9 μL, 0.42 mmol, 2.1 equiv) and methanesulfonyl chloride (17.4 μL, 0.22 mmol, 1.1 equiv) were added sequentially and the resulting reaction mixture was stirred for 1 min. Following this duration, TLC showed complete consumption of 35-1. The reaction mixture was partitioned between ethyl acetate (5 mL) and saturated NaHCO3 (5 mL). The layers were separated and the aqueous layer was extracted with ethyl acetate (3×5 mL). The combined organics were dried over Na2SO4, filtered and concentrated in vacuo to give a clear, yellow oil. The yellow oil (77 mg, 0.20 mmol, 1 equiv) and sodium azide (32.8 mg, 0.50 mmol, 2.5 equiv) were dissolved in DMF, cooled to 0° C. and added with sodium hydride (12.1 mg, 0.50 mmol, 2.5 equiv). The reaction mixture was stirred for 18 h. Following this duration, TLC showed complete consumption of the mesylate. Azide intermediate (5-(2-(azidomethyl)-3-methylcyclopropyl)-3-methyl-1-neopentyl-1H-imidazo[4,5-b]pyridin-2(3H)-one) was isolated by normal-phase HPLC (0-40% EtOAc:hexanes). 5-(2-(azidomethyl)-3-methylcyclopropyl)-3-methyl-1-neopentyl-1H-imidazo[4,5-b]pyridin-2(3H)-one (65 mg, 0.19 mmol, 1 equiv), triphenylphosphine (156 mg, 0.59 mmol, 3 equiv) and water (35.1 μL, 1.9 mmol, 9.8 equiv) were added with THF. The reaction mixture was stirred at 55° C. for 1 h. Following this duration, UPLC showed trace of the azide intermediate. Purification by reverse-phase HPLC (20-100% CH3CN:0.1% TFA in H2O) provided 35-2.

reactant | 5-(2-(azidomethyl)-3-methylcyclopropyl)-3-methyl-1-neopentyl-1H-imidazo[4,5-b]pyridin-2(3H)-one | 0.19 mmol, 65 mg, 1 equiv | N(=[N+]=[N-])CC1C(C1C)C1=CC=C2C(=N1)N(C(N2CC(C)(C)C)=O)C | C17H24N6O
reactant | triphenylphosphine | 0.59 mmol, 156 mg, 3 equiv | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | water | 1.9 mmol, 35.1 μL, 9.8 equiv | O | H2O
reactant | azide | [N-]=[N+]=[N-]
solvent | THF | C1CCOC1 | C4H8O
product | 5-[2-(Aminomethyl)-3-methylcyclopropyl]-1-(2,2-dimethylpropyl)-3-methyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | NCC1C(C1C)C1=CC=C2C(=N1)N(C(N2CC(C)(C)C)=O)C | C17H26N4O
